US05322679
Synthesis of WIN 67722 (6-Ethoxy-6-oxohexyl 3.5-bis(acetylamino)-2,4,6-triiodobenzoate)
Sodium diatrizoate (16.1 g, 25.3 mmol) was dissolved in 180 ml of dry dimethylformamide and to this solution was added, in one portion, ethyl 6-bromohexanoate (4.5 ml, 25.3 mmol). The reaction mixture was stirred for 12 hr at ambient temperature and then poured into 1.6 1 of ice-water with stirring. The resulting white precipitate was collected by filtration, dissolved in 1:1 ethanol-ethyl acetate and the solution was treated with magnesium sulfate, decolorizing charcoal and then filtered through a short pad of silica gel. The filtrate was concentrated to dryness and dried to give 16 g (84%) of the desired product. Recrystallization from methanol water gave analytically pure material, mp 235°-238° C. (decomp. at 275° C.); MS:M+756. The 1H-NMR (300 MHz) spectral data was consistent with the desired product. Calculated for C19H23I3N2O6 : C 30.18, H 3.07, I 50.35, N 3.70; Found: C 30.26, H 2.88, I 50.40, N 3.65.

reactant | Sodium diatrizoate | 25.3 mmol, 16.1 g | CC(=O)NC1=C(C(=C(C(=C1I)NC(=O)C)I)C(=O)[O-])I.[Na+]
reactant | ethyl 6-bromohexanoate | 25.3 mmol, 4.5 ml | BrCCCCCC(=O)OCC | C8H15BrO2
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | 6-Ethoxy-6-oxohexyl 3.5-bis(acetylamino)-2,4,6-triiodobenzoate | 16 g, 84% | C(C)(=O)NC=1C(=C(C(=O)OCCCCCC(=O)OCC)C(=C(C1I)NC(C)=O)I)I | C19H23I3N2O6
